US05004739
α-(2-nitrophenyl)-p-bromocinnamic acid (1)
A solution of 4-bromobenzaldehyde (27.75 g, 0.150 mol), 2-nitrophenylacetic acid (27.18 g, 0.150 mol) and triethylamine (21.0 ml, 0.150 mol) in 150 ml of acetic anhydride was heated at 40° C. for 38 hours and then poured into 900 ml of water and stirred until the organic layer solidified. The solid was isolated by filtration and dried in vacuo to yield 48.3 g (92%) of the title compound as a tan solid which was sufficiently pure to use directly in the next reaction.

reactant | 4-bromobenzaldehyde | 0.150 mol, 27.75 g | BrC1=CC=C(C=O)C=C1 | C7H5BrO
reactant | 2-nitrophenylacetic acid | 0.150 mol, 27.18 g | [N+](=O)([O-])C1=C(C=CC=C1)CC(=O)O | C8H7NO4
reactant | triethylamine | 0.150 mol, 21.0 ml | C(C)N(CC)CC | C6H15N
reactant | water | 900 ml | O | H2O
solvent | acetic anhydride | 150 ml | C(C)(=O)OC(C)=O | C4H6O3
product | α-(2-nitrophenyl)-p-bromocinnamic acid | 48.3 g, 92% | [N+](=O)([O-])C1=C(C=CC=C1)C(C(=O)O)=CC1=CC=C(C=C1)Br | C15H10BrNO4
